US07576064B2
3-Benzyloxy-5-bromo-4-hydroxymethyl-1-isopropyl-1H-pyrazole
3-Benzyloxy-5-bromo-1-isopropylpyrazole-4-carboxylic acid (4.6 g) was dissolved in tetrahydrofuran (30 mL) and to the stirred solution was added dropwise 1M solution of borane-tetrahydrofuran complex in tetrahydrofuran (21 mL) under ice cooling. The mixture was stirred at room temperature for 1 hour. The reaction mixture was cooled with ice bath and to the reaction mixture was dropwise added 50 mL of water. Then 1 mol/L hydrochloric acid (20 mL) was added dropwise to the mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the obtained residue was purified by column chromatography on silica gel (eluent: ethyl acetate/hexane=1/5) to give 3.0 g of the title compound.

reactant | 3-Benzyloxy-5-bromo-1-isopropylpyrazole-4-carboxylic acid | 4.6 g | C(C1=CC=CC=C1)OC1=NN(C(=C1C(=O)O)Br)C(C)C | C14H15BrN2O3
reactant | water | 50 mL | O | H2O
reactant | hydrochloric acid | 1 mol/L, 20 mL | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 21 mL | O1CCCC1 | C4H8O
product | 3-Benzyloxy-5-bromo-4-hydroxymethyl-1-isopropyl-1H-pyrazole | 3.0 g | C(C1=CC=CC=C1)OC1=NN(C(=C1CO)Br)C(C)C | C14H17BrN2O2
